US08802864B2
a) 1,1-dimethylethyl (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}-methyl)-1-pyrrolidinecarboxylate
A solution of 1,1-dimethylethyl (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate (0.770 mmol) in dioxane (6 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.770 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (50 mg), and 2M aq potassium carbonate (3 mL). The reaction mixture was purged with nitrogen, sealed, and stirred at 110° C. for 1 h. The solution was cooled to room temperature and the dioxane layer separated from the aqueous layer. The dioxane layer was removed via pipette and was passed through a plug of celite and sodium sulfate. The plug was washed with dioxane (6 mL). All dioxane filtrates were combined and concentrated in vacuo. Silica gel chromatography (0-20% methanol:ethyl acetate) was utilized in purifying the title compound (250 mg, 65%). MS(ES)+ m/e 490.2 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate | 0.770 mmol | BrC1=CC(=C(C=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C)F | C18H22BrFN4O3
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.770 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 2M, 3 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 1,1-dimethylethyl (3S)-3-({4-[2-fluoro-4-(7-quinolinyl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}-methyl)-1-pyrrolidinecarboxylate | FC1=C(C=CC(=C1)C1=CC=C2C=CC=NC2=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C | C27H28FN5O3
